US04191840
2-Nitro-6-methylaminobenzonitrile is prepared from 2,6-dinitrobenzonitrile as in Example 10 using methylamine instead of N-methylpiperazine, m.p. 203°-206°.

reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | methylamine | CN | CH5N
product | 2-Nitro-6-methylaminobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)NC | C8H7N3O2
